US06919337B2
Glyoxylic acid (1.37 g, 9.28 mmol) is added to mixture of 1-(6-chloro-1H-isoquinolin-2-yl)-ethanone [J. Org. Chem, 1980, 45, 1950] (1.44 g, 5.90 mmol) in 6N HCl (24 ml). The reaction is heated at 100° C. for 3 hours, cooled to RT, washed with ether and evaporated to 10 ml volume. After overnight refrigeration, the solid is collected by filtration and dried to afford (6-chloro-isoquinolin-4-yl)-acetic acid hydrochloride. 1H NMR (400 MHz, DMSO) δ: 4.45 (s 2H), 8.18 (d J 9 1H), 8.52 (s 1H), 8.70 (d J 8 1H), 8.83 (s 1H), 9.96 (s 1H).

reactant | Glyoxylic acid | 9.28 mmol, 1.37 g | C(C=O)(=O)O | C2H2O3
reactant | 1-(6-chloro-1H-isoquinolin-2-yl)-ethanone | 5.90 mmol, 1.44 g | ClC=1C=C2C=CN(CC2=CC1)C(C)=O | C11H10ClNO
solvent | HCl | 6N, 24 ml | Cl | ClH
product | (6-chloro-isoquinolin-4-yl)-acetic acid hydrochloride | Cl.ClC=1C=C2C(=CN=CC2=CC1)CC(=O)O | InChI=1S/C11H8ClNO2.ClH/c12-9-2-1-7-5-13-6-8(3-11(14)15)10(7)4-9;/h1-2,4-6H,3H2,(H,14,15);1H
